US04011337
b. N,N-Dimethyl-N'-(m-nitrophenyl)oxamide
A solution of 11.91 gm. (0.05 mole) of ethyl 3-nitro-oxanilate in 500 ml. of methylene chloride is cooled to 5° in an ice bath. There is added slowly, 25 ml. of dimethylamine and the mixture stirred for two hours in an ice-bath. The ice-bath is removed and the mixture allowed to stand at room temperature overnight.

reactant | ethyl 3-nitro-oxanilate | 0.05 mole | [N+](=O)([O-])C=1C=C(NC(C(=O)OCC)=O)C=CC1 | C10H10N2O5
reactant | dimethylamine | CNC | C2H7N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N-Dimethyl-N'-(m-nitrophenyl)oxamide | CN(C(=O)C(=O)NC1=CC(=CC=C1)[N+](=O)[O-])C | C10H11N3O4
